US04248859
1-Ethyl-2-methylcycloheptanecarbonyl chloride (1.5 g, 0.007 mole) in ether (10 ml.) was added slowly to a solution of morpholine (0.02 mole) in ether (10 ml.). The mixture was washed with dilute hydrochloric acid, dilute sodium bicarbonate and then with water. The ether layer was dried and distilled to give N-(1-ethyl-2-methylcycloheptanecarbonyl) morpholine bp. 145°-7°/0.35 mm.

reactant | 1-Ethyl-2-methylcycloheptanecarbonyl chloride | 0.007 mole, 1.5 g | C(C)C1(C(CCCCC1)C)C(=O)Cl | C11H19ClO
reactant | morpholine | 0.02 mole | N1CCOCC1 | C4H9NO
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | N-(1-ethyl-2-methylcycloheptanecarbonyl) morpholine | C(C)C1(C(CCCCC1)C)C(=O)N1CCOCC1 | C15H27NO2
